US07960369B2
1-bromo-3-(1-phenylvinyl)benzene
To a suspension of methyltriphenylphosphonium iodide (13.3 g, 33.3 mmol) in tetrahydrofuran (80 mL) was added potassium t-butoxide (3.37 g, 30.0 mmol) by small portions under ice-cooling, and the mixture was stirred under a nitrogen atmosphere at the same temperature for 4 hrs. To the reaction mixture was added dropwise a solution of (3-bromophenyl)(phenyl)methanone (5.22 g, 20.0 mmol) in tetrahydrofuran (20 mL), and the mixture was further stirred under ice-cooling for 2 hrs. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate, washed with saturated brine, dried over magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane-10% ethyl acetate/hexane) to give the title compound (5.18 g, yield 92%) as a colorless oil.

reactant | methyltriphenylphosphonium iodide | 33.3 mmol, 13.3 g | [I-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium t-butoxide | 30.0 mmol, 3.37 g | CC(C)([O-])C.[K+]
reactant | (3-bromophenyl)(phenyl)methanone | 20.0 mmol, 5.22 g | BrC=1C=C(C=CC1)C(=O)C1=CC=CC=C1 | C13H9BrO
reactant | Water | O | H2O
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 1-bromo-3-(1-phenylvinyl)benzene | 5.18 g, yield 92% | BrC1=CC(=CC=C1)C(=C)C1=CC=CC=C1 | C14H11Br
